US03973022
A mixture of 10 g of 2-phenyl-6-quinolineacetonitrile, 19 ml of water, 19 ml of concentrated sulphuric acid and 19 ml of glacial acetic acid is kept under reflux for 2 hours. Thereafter, ice and water are added and the pH is adjusted to 5-6 with solid sodium bicarbonate. The crystals which thereupon precipitate are filtered off and rinsed with water. Recrystallisation from methanol-ether-petroleum ether yields 2-phenyl-6-quinolineacetic acid of melting point 176°-179°C. 2-(p-Chlorophenyl)-6-quinoline-acetic acid and 2-(p-fluorophenyl)-6-quinolineacetic acid are obtained analogously.

reactant | 2-phenyl-6-quinolineacetonitrile | 10 g | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C=C1)CC#N | C17H12N2
reactant | sulphuric acid | 19 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | acetic acid | 19 ml | C(C)(=O)O | C2H4O2
solvent | water | 19 ml | O | H2O
product | 2-phenyl-6-quinolineacetic acid | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C=C1)CC(=O)O | C17H13NO2
